US08492582B2
Tripotassium phosphate (0.12 g), 1-(tert-butoxycarbonyl)-1H-pyrrole-2-boronic acid (56 mg), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (1 mg), and palladium(II) acetate (1 mg) were added to a toluene (3.0 mL) solution of tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate (0.10 g), followed by heating to reflux under a nitrogen atmosphere for 3 hours. The reaction mixture was cooled to room temperature, and tripotassium phosphate (47 mg), 1-(tert-butoxycarbonyl)-1H-pyrrole-2-boronic acid (47 mg), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (1 mg), and palladium(II) acetate (1 mg) were added thereto, followed by heating to reflux under a nitrogen atmosphere for 1 hour and 30 minutes. The reaction mixture was cooled to room temperature, and ethyl acetate and a 10% aqueous solution of citric acid were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Dioxane (1.5 mL), methanol (1.5 mL), and a 2 mol/L aqueous solution of sodium hydroxide (0.29 mL) were sequentially added to the obtained residue, followed by stiffing at 50° C. for 1 hour and 30 minutes. The reaction mixture was cooled to room temperature, and then a 10% aqueous solution of citric acid and ethyl acetate were sequentially added thereto. The solid substance was collected by filtration to obtain 39 mg of 2-(5-phenylpyridine-3-carboxamido)-4-(1H-pyrrol-2-yl)benzoic acid as a white solid.

reactant | Tripotassium phosphate | 0.12 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1-(tert-butoxycarbonyl)-1H-pyrrole-2-boronic acid | 56 mg | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate | 0.10 g | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C23H21BrN2O3
reactant | tripotassium phosphate | 47 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1-(tert-butoxycarbonyl)-1H-pyrrole-2-boronic acid | 47 mg | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | palladium(II) acetate | 1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 1 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 1 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(5-phenylpyridine-3-carboxamido)-4-(1H-pyrrol-2-yl)benzoic acid | 39 mg | C1(=CC=CC=C1)C=1C=C(C=NC1)C(=O)NC1=C(C(=O)O)C=CC(=C1)C=1NC=CC1 | C23H17N3O3
